US07902226B2
3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine
3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidin-2-one (7.53 g, 21.0 mmol) was dissolved in anhydrous tetrahydrofuran (70 ml) and a 1.0M borane-tetrahydrofuran complex/tetrahydrofuran solution (63.0 ml, 63.0 mmol) was added dropwise gradually thereto while stirring and cooling with ice. After completion of dripping, it was stirred at room temperature for 20 hours. After slowly adding an aqueous solution (72 ml) of potassium carbonate (7.22 g) while cooling with ice, it was heated under reflux for 1.5 hours. After letting the reaction solution cool to room temperature, water (150 ml) was added, extraction with ethyl acetate (200 ml×2) was performed, and then the combined organic layer was washed with saturated saline solution (200 ml) and then dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, the concentrate was applied to a silica gel chromatography, and 7.19 g (99%) of the title compound was obtained in the form of a colorless syrup from a chloroform:methanol=50:1 eluate.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidin-2-one | 21.0 mmol, 7.53 g | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@@H]1C(N(CC1)[C@@H](C)C1=CC=CC=C1)=O | C21H30N2O3
reactant | potassium carbonate | 72 ml, 7.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 63.0 mmol, 63.0 ml | O1CCCC1 | C4H8O
product | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine | 7.19 g, 99% | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@H]1CN(CC1)[C@@H](C)C1=CC=CC=C1 | C21H32N2O2
